US07842694B2
3-({(1S)-2-[(Difluoromethyl)oxy]-1-methylethyl}oxy)-5-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)benzamide
3-({(1S)-2-[(Difluoromethyl)oxy]-1-methylethyl}oxy)-N-(1-methyl-1H-pyrazol-3-yl)-5-[(phenylmethyl)oxy]benzamide (0.1 g, 0.23 mmol) was dissolved in ethanol (3 mL) and THF (3 mL) and the flask evacuated and purged with argon (3 times). 10% Palladium on carbon (0.01 g) was added and the flask further evacuated and finally purged with hydrogen gas. The reaction mixture was stirred at RT for 20 hours until completion. The reaction mixture was evacuated and purged with nitrogen (3 times). The catalyst was filtered off through celite and the filtrate concentrated in vacuo to give the desired compound (70 mg). 1H NMR δ (CDCl3): 1.28 (d, 3H), 3.71 (s, 3H), 3.80-3.95 (m, 2H), 4.51 (sextet, 1H), 5.96-6.36 (t, 1H), 6.53 (s, 1H), 6.73 (s, 1H), 6.91 (s, 1H), 6.96 (s, 1H), 7.22 (s, 1H), 8.83 (s, 1H). m/z 342 (M+H)+.

reactant | 3-({(1S)-2-[(Difluoromethyl)oxy]-1-methylethyl}oxy)-N-(1-methyl-1H-pyrazol-3-yl)-5-[(phenylmethyl)oxy]benzamide | 0.23 mmol, 0.1 g | FC(OC[C@H](C)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)OCC1=CC=CC=C1)F | C22H23F2N3O4
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 3-({(1S)-2-[(Difluoromethyl)oxy]-1-methylethyl}oxy)-5-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 70 mg | FC(OC[C@H](C)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O)F | C15H17F2N3O4
